US05726205
(6) trans-O-(4-phenyl-3-butenoyl)-4-(4-dimethylaminomethylphenyl)-cyclohexanol
from trans-4-(4-dimethylaminomethylphenyl)-cyclohexanol and 4-phenyl-3-butenoic acid chloride/triethylamine. White crystals.

reactant | trans-4-(4-dimethylaminomethylphenyl)-cyclohexanol | CN(C)CC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)O | C15H23NO
reactant | 4-phenyl-3-butenoic acid chloride triethylamine | C1(=CC=CC=C1)C=CCC(=O)Cl.C(C)N(CC)CC
product | trans-O-(4-phenyl-3-butenoyl)-4-(4-dimethylaminomethylphenyl)-cyclohexanol | C1(=CC=CC=C1)C=CCC(=O)O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CN(C)C | C25H31NO2
